US04493931
Diisopropyl N-benzylidene-aminomethylphosphonate
The desired imine is obtained in a quantitative yield by reacting 10.6 g. (0.1 mol) benzaldehyde with 19.5 g. (0.1 mol) diisopropyl aminomethylphosphonate under the conditions described in Example 1.

reactant | benzaldehyde | 0.1 mol | C(C1=CC=CC=C1)=O | C7H6O
reactant | diisopropyl aminomethylphosphonate | 0.1 mol | NCP(OC(C)C)(OC(C)C)=O | C7H18NO3P
product | Diisopropyl N-benzylidene-aminomethylphosphonate | quantitative yield | C(C1=CC=CC=C1)=NCP(OC(C)C)(OC(C)C)=O | C14H22NO3P
